US08258134B2
A solution of 4-chloro-5-phenoxy-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one (2.84 g, 9.25 mmol) in methanol (6.17 mL, 1.5M) was treated with a 6N aqueous hydrochloric acid solution (7.71 mL, 1.2M). The reaction solution was heated to 110° C., where it stirred for 4 h and was then allowed to completely cool down to 25° C. The reaction was then diluted with water (200 mL). The resulting white precipitate was collected by filtration, washed with water (2×50 mL), and dried in vacuo to afford 4-chloro-5-phenoxy-2H-pyridazin-3-one (1.78 g, 86%) as a white solid; ES+-HRMS m/e calcd for C10H7N2O2Cl [M+H+] 223.0269, found 223.0269.

reactant | 4-chloro-5-phenoxy-2-(tetrahydro-pyran-2-yl)-2H-pyridazin-3-one | 9.25 mmol, 2.84 g | ClC=1C(N(N=CC1OC1=CC=CC=C1)C1OCCCC1)=O | C15H15ClN2O3
reactant | hydrochloric acid | 6N, 7.71 mL | Cl | ClH
solvent | methanol | 1.5M, 6.17 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 4-chloro-5-phenoxy-2H-pyridazin-3-one | 1.78 g, 86% | ClC=1C(NN=CC1OC1=CC=CC=C1)=O | C10H7ClN2O2
